US04427586
[3S,4S]-4-[1-t-Butoxycarbonyl-3-diazo-2-oxo-3-(2,2,2-trichloroethoxycarbonyl)propyl]-3-(1-hydroxyisopropyl)-2-oxoazetidine
To 50 ml of 0.2 M methanolic sodium methoxide solution stirred and cooled at -78° C., are successively added 3.43 g of 2,2,2-trichloroethyl 4-t-butyloxycarbonyl-2-diazo-3-oxobutyrate in 30 ml of dichloromethane and 10 mMol equivalent of pivaloyloxymethyl [3R,4S]-2-[4-chloro-3-(1-hydroxyisopropyl)-2-oxoazetidin-1-yl]-2-oxoacetate, which is prepared according to the procedure of Example 1, in 30 ml of dichloromethane. After a few minutes, 0.6 ml of acetic acid is added to the solution and the solution is evaporated to dryness under reduced pressure. The residue is taken into 50 ml of ethyl acetate, washed with water, and dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure to give the crude product. The product is subjected to silica-gel column chromatography by use of n-hexane-ethyl acetate=1:2 for elution. The fractions containing the desired compound are combined and concentrated to give 2.6 g of the titled compound.

reactant | sodium methoxide | 0.2 M, 50 ml | C[O-].[Na+]
reactant | 2,2,2-trichloroethyl 4-t-butyloxycarbonyl-2-diazo-3-oxobutyrate | 3.43 g | C(C)(C)(C)OC(=O)CC(C(C(=O)OCC(Cl)(Cl)Cl)=[N+]=[N-])=O | C11H13Cl3N2O5
reactant | pivaloyloxymethyl [3R,4S]-2-[4-chloro-3-(1-hydroxyisopropyl)-2-oxoazetidin-1-yl]-2-oxoacetate | Cl[C@H]1[C@@H](C(N1C(C(=O)OCOC(C(C)(C)C)=O)=O)=O)C(C)(C)O | C14H20ClNO7
reactant | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | [3S,4S]-4-[1-t-Butoxycarbonyl-3-diazo-2-oxo-3-(2,2,2-trichloroethoxycarbonyl)propyl]-3-(1-hydroxyisopropyl)-2-oxoazetidine | 2.6 g | C(C)(C)(C)OC(=O)C(C(C(C(=O)OCC(Cl)(Cl)Cl)=[N+]=[N-])=O)[C@@H]1[C@H](C(N1)=O)C(C)(C)O | C17H22Cl3N3O7
